US04547501
2,6-Dichloro-3-hydrazinoquinoxaline (1.0 g., 0.0044 mole), the product of Preparation L(a), was refluxed with 15 ml. of triethyl orthopropionate for 4 hours and cooled to room temperature. The precipitate was recovered by filtration, washed with cyclohexane and air dried to afford 730 mg. (62% yield) of 4,8-dichloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. >250° C. Mass spectrum: m/e, 266 (P); m/e, 268 (P.+2).

reactant | 2,6-Dichloro-3-hydrazinoquinoxaline | 0.0044 mole, 1.0 g | ClC1=NC2=CC=C(C=C2N=C1NN)Cl | C8H6Cl2N4
reactant | triethyl orthopropionate | C(CC)(OCC)(OCC)OCC | C9H20O3
product | 4,8-dichloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | 62% yield | ClC=1C=2N(C3=CC(=CC=C3N1)Cl)C(=NN2)CC | C11H8Cl2N4
